US03952001
A mixture of 6.4 g. 3-isopropylsulphinyl-1,2,4-triazole, 8.0 ml. diallylcarbamoyl chloride, 25 ml. dry tetrahydrofuran and 10 ml. dry triethylamine was refluxed under anhydrous conditions for 2 hours. The cooled reaction mixture was filtered and the filtrate was distilled under reduced pressure to give an oily residue which subsequently solidified. This solid residue was recrystallized from petroleum ether (b.p. 60° - 80°C.) to give 1-diallylcarbamoyl-3-isopropylsulphinyl-1,2,4-triazole, m.p. 32° - 34°C. Elemental analysis satisfactory. EXAMPLE 19

reactant | 3-isopropylsulphinyl-1,2,4-triazole | C(C)(C)S(=O)C1=NNC=N1 | C5H9N3OS
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diallylcarbamoyl-3-isopropylsulphinyl-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)S(=O)C(C)C)CC=C | C12H18N4O2S
